US05990146
4-Bromo-5-Hydroxy-1-phenylbenzimidazole Hydrochloride by the Method of Scheme 3
A solution of N-bromosuccinimide (0.72 g, 4.04 mmol) in DMF (5 mL) was added dropwise at room temperature to a solution of 5-hydroxy-1-phenylbenzimidazole (0.85 g, 4.04 mmol) in DMF (30 mL). After 1 hour the solution was diluted with aqueous NaCl and extracted into EtOAc, and the extract was worked up to give a solid which was chromatographed on silica gel. Elution with EtOAc/petroleum ether (1:1) gave foreruns, while EtOAc eluted Example 64 (0.88 g, 75%). HCl salt: mp (MeOH/Et2O) 244-246° C.

reactant | N-bromosuccinimide | 4.04 mmol, 0.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-hydroxy-1-phenylbenzimidazole | 4.04 mmol, 0.85 g | OC1=CC2=C(N(C=N2)C2=CC=CC=C2)C=C1 | C13H10N2O
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-5-Hydroxy-1-phenylbenzimidazole Hydrochloride | Cl.BrC1=C(C=CC=2N(C=NC21)C2=CC=CC=C2)O | InChI=1S/C13H9BrN2O.ClH/c14-12-11(17)7-6-10-13(12)15-8-16(10)9-4-2-1-3-5-9;/h1-8,17H;1H
